US04863920
12.80 g (44 mmol) of 7-bromo-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at 95° for 3.5 hours with 39 g (154 mmol) of iodine in 80 ml of N,N-dimethylformamide. The reaction mixture was evaporated, the residue was taken up in methylene chloride and water and decolorized by the addition of sodium thiosulphate. The mixture was filtered and the filtrate was evaporated. After chromatography of the residue on silica gel while eluting with ethyl acetate and recrystallization from methylene chloride and ethyl acetate there was obtained 7-bromo-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 203°-204°.

reactant | 7-bromo-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 44 mmol, 12.80 g | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1)C)=O | C12H10BrN3O
reactant | iodine | 154 mmol, 39 g | II | I2
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 7-bromo-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9BrIN3O
